US07964643B2
4′-Carboxybiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide (ABD-271)
Using a method analogous to that described in Example 40, 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide and 4-carboxyphenyl boronic acid were reacted to give the title compound as a white solid. δC (DMSO, 62.9 MHz): 22.6, 28.9, 32.0, 42.6, 60.5, 127.2, 127.4, 127.7, 130.2, 130.5, 140.1, 142.7, 142.7 and 167.0.

reactant | 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)Br | C11H16BrNO3S
reactant | 4-carboxyphenyl boronic acid | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
product | 4′-Carboxybiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C18H21NO5S
